US05843983
5-Chloro-2-(2-phenylethyl)phenol.
1.10 g of benzaldehyde, 6.02g of 4-chloro-2-methoxybenzyltriphenyl-phosphonium chloride and 1.85 ml of DBU were allowed to react together in 20 ml of acetonitrile and were subsequently treated and purified by silica gel column chromatography, using a 10: 1 by volume mixture of hexane and ethyl acetate as the eluent, in the same manner as described in Preparation 2, to give 2.85 g of an oily substance. This oily substance was dissolved in 50 ml of ethanol, and 0.40 g of tris(triphenylphosphine)rhodium(I) chloride was added to the resulting solution. The resulting mixture was then stirred under a hydrogen atmosphere at atmospheric pressure and at 50° C. for 14 hours. At the end of this time, the reaction solution was filtered using a Celite (trade mark) filter aid. The filtrate was concentrated by evaporation under reduced pressure, and purified by silica gel column chromatography, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give an intermediate compound. This intermediate compound was dissolved in 10 ml of ethyl acetate, and 10 ml of a 4N solution of hydrogen chloride in ethyl acetate were added to the resulting solution, whilst ice-cooling. The reaction mixture was then allowed to stand at room temperature for 1 hour. At the end of this time, the solvent was removed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 2.40 g (a quantitative yield) of the title compound as a colorless oily substance.

reactant | benzaldehyde | 1.10 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-chloro-2-methoxybenzyltriphenyl-phosphonium chloride | 6.02g | [Cl-].ClC1=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)OC
reactant | DBU | 1.85 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | tris(triphenylphosphine)rhodium(I) chloride | 0.40 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 5-Chloro-2-(2-phenylethyl)phenol | quantitative yield | ClC=1C=CC(=C(C1)O)CCC1=CC=CC=C1 | C14H13ClO
